US09447245B2
Phenylacetylene (103 mg, 1.0 mmol, 1.0 eq.) and benzyl azide (133 mg, 1.0 mmol, 1.0 eq.) were dissolved in an air-tight lockable vial with a septum in 10 mL dry dichloromethane. The Cu complex (catalytic or stoichiometric amounts) shown below was added, the vial sealed and the reaction stirred at room temperature for 2 days. For the removal of the catalyst complex the reaction mixture was put in 50 mL methanol and stirred for 20 min. The complex was removed by filtering and the filtrate was concentrated. Removal of the solvent and drying of the product in high vacuum resulted in the compound 1-benzyl-4-phenyl-1H-1,2,3-triazole as light yellow solid with 95% yield (245 mg, 0.95 mmol). The identity of the product was proven by NMR-spectroscopy, infrared spectroscopy and high-resolution mass spectroscopy.

reactant | Phenylacetylene | 1.0 mmol, 103 mg, 1.0 eq. | C1(=CC=CC=C1)C#C | C8H6
reactant | benzyl azide | 1.0 mmol, 133 mg, 1.0 eq. | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-benzyl-4-phenyl-1H-1,2,3-triazole | 95% yield | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CC=CC=C1 | C15H13N3
